US04472433
A mixture of bis(2-oxoindolin-7-yl)ether (2.4 g.), sodium hydroxide (1.35 g.), dioxane (10 ml.) and water (50 ml.) was refluxed under heating for 7 hours with stirring. After cooling, the reaction mixture was filtered, the filtrate was concentrated under reduced pressure. The residue was dissolved in water and washed with ethyl acetate. Ethyl acetate was added to the solution and adjusted to pH 4 to 5 with 5% sulfuric acid. The ethyl acetate layer was separated, washed with water, dried over magnesium sulfate and then evaporated under reduced pressure. The residue was washed with a mixture of ethyl acetate and diethyl ether to give bis(2-amino-3-carboxymethylphenyl)ether (1.6 g.). mp22 240° C.

reactant | bis(2-oxoindolin-7-yl)ether | 2.4 g | O=C1NC2=C(C=CC=C2C1)OC=1C=CC=C2CC(NC12)=O | C16H12N2O3
reactant | sodium hydroxide | 1.35 g | [OH-].[Na+]
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | bis(2-amino-3-carboxymethylphenyl)ether | 1.6 g | NC1=C(C=CC=C1CC(=O)O)OC1=C(C(=CC=C1)CC(=O)O)N | C16H16N2O5
